US07479254B2
After 1.38 g (6.4 mmol) of ferrocene-aldehyde (Aldrich Corp) was dissolved in 20 mL of a DMF solution, the mixture was mixed with a solution of 0.75 g (5.7 mmol) of 6-amino caproic acid (Merck Corp.) in 5 mL of NaOH and refluxed at 80° C. for 2 hours. The reaction mixture was cooled to room temperature, and a solution of NaBH4 (0.63 g, 16.5 mmol) in 5 mL of water was added little by little into the reaction mixture (refer to FIG. 11). After 12 hours later, an aqueous acetic acid solution (10%) was slowly added until the pH reached 5. The reaction by-product ferrocene-CH2OH and unreacted 6-amino caproic acid dissolved in the organic phase was removed through extraction using ethylacetate. The aqueous phase was distilled at 50° C. under reduced pressure to obtain yellowish brown crystals. The yellowish brown crystals were recrystallized by dissolving the crystals in high-temperature ethanol to obtain planar, yellow crystalline N-(ferrocenyl methyl)-6-amino caproic acid.

reactant | ferrocene-aldehyde | 6.4 mmol, 1.38 g | [C-]1(C=CC=C1)C=O.[CH-]1C=CC=C1.[Fe+2]
reactant | 6-amino caproic acid | 5.7 mmol, 0.75 g | NCCCCCC(=O)O | C6H13NO2
reactant | NaBH4 | 16.5 mmol, 0.63 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | NaOH | 5 mL | [OH-].[Na+]
solvent | water | 5 mL | O | H2O
product | N-(ferrocenyl methyl)-6-amino caproic acid | [C-]1(C=CC=C1)CNCCCCCC(=O)O.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C12H18NO2.C5H5.Fe/c14-12(15)8-2-1-5-9-13-10-11-6-3-4-7-11;1-2-4-5-3-1;/h3-4,6-7,13H,1-2,5,8-10H2,(H,14,15);1-5H;/q2*-1;+2
